US05155268
1-Butyl-1-[3-[4-((methylsulfonyl)amino)phenyl]propyl]hexahydro-1H-azepinium bromide, Chart XIII
A mixture of 1.35 g (4.35 mmol) of hexahydro-1-[3-[4-(methylsulfonylamino)phenyl]propyl]-1H-azepine, (Table 5, Entry 7) and 4.7 ml of n-butyl bromide in 10 ml of acetonitrile is heated at 80°-90° C. (oil bath temperature) for 20 hrs. The reaction is concentrated and the residue is partitioned between water and methylene chloride. The aqueous layer (50 ml) is extracted with methylene chloride and then basified with sodium hydroxide to at least pH 12. The solution is saturated with potassium bromide and then reextracted with methylene chloride. The aqueous layer is acidified with hydrobromic acid and lyophilized. Solids are extracted with 5% methanol-methylene chloride, concentrated, and the residue extracted into methylene chloride (filtered through cotton) and concentrated to yield the title compound.

reactant | hexahydro-1-[3-[4-(methylsulfonylamino)phenyl]propyl]-1H-azepine | 4.35 mmol, 1.35 g | CS(=O)(=O)NC1=CC=C(C=C1)CCCN1CCCCCC1 | C16H26N2O2S
reactant | n-butyl bromide | 4.7 ml | C(CCC)Br | C4H9Br
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-Butyl-1-[3-[4-((methylsulfonyl)amino)phenyl]propyl]hexahydro-1H-azepinium bromide | [Br-].C(CCC)[N+]1(CCCCCC1)CCCC1=CC=C(C=C1)NS(=O)(=O)C | InChI=1S/C20H35N2O2S.BrH/c1-3-4-15-22(16-7-5-6-8-17-22)18-9-10-19-11-13-20(14-12-19)21-25(2,23)24;/h11-14,21H,3-10,15-18H2,1-2H3;1H/q+1;/p-1
